US04484007
1-(p-Isopropylphenyl)-4,8-dimethyl-8-methoxynonan-1-ol
To the 7-methoxy-3,7-dimethyloctylmagnesium chloride (0.155 mol) in tetrahydrofuran (200 ml) under nitrogen was added p-isopropylbenzaldehyde (37 g, 86.94% pure) in tetrahydrofuran (50 ml) over 20 min. The reaction was exothermic, causing solvent to boil during the course of addition. After stirring at room temperature continued thereafter for a total of 23 h, the reaction mixture was poured into dilute hydrochloric acid, and extracted with pentane. The extracts were washed with bicarbonate, brine, and dried. Upon solvent evaporation, an oil weighing 65.1 g was obtained which was shown to contain 18.31% of the alcohol product.

reactant | 7-methoxy-3,7-dimethyloctylmagnesium chloride | 0.155 mol | COC(CCCC(CC[Mg]Cl)C)(C)C
reactant | p-isopropylbenzaldehyde | 37 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(p-Isopropylphenyl)-4,8-dimethyl-8-methoxynonan-1-ol | C(C)(C)C1=CC=C(C=C1)C(CCC(CCCC(C)(OC)C)C)O | C21H36O2
